US07939526B2
Methoxyacetyl chloride (2.5 g, 23 mmol) was added dropwise to a solution of 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol (prepared as described in Part A of Example 8, approximately 4.4 g, 19 mmol) in acetonitrile (96 mL). The reaction mixture was stirred for 1 hour at room temperature. A solid formed that was isolated by filtration, washed with acetonitrile, and dried to yield 5.5 g of N-{4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}-2-methoxyacetamide hydrochloride as a yellow powder.

reactant | Methoxyacetyl chloride | 23 mmol, 2.5 g | COCC(=O)Cl | C3H5ClO2
reactant | 1-[(3-aminoquinolin-4-yl)amino]-2-methylpropan-2-ol | NC=1C=NC2=CC=CC=C2C1NCC(C)(O)C | C13H17N3O
solvent | acetonitrile | 96 mL | C(C)#N | C2H3N
product | N-{4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}-2-methoxyacetamide hydrochloride | 5.5 g | Cl.OC(CNC1=C(C=NC2=CC=CC=C12)NC(COC)=O)(C)C | InChI=1S/C16H21N3O3.ClH/c1-16(2,21)10-18-15-11-6-4-5-7-12(11)17-8-13(15)19-14(20)9-22-3;/h4-8,21H,9-10H2,1-3H3,(H,17,18)(H,19,20);1H
